US04314061
3,6-bis[2-(4-methyl-1-piperazinyl)ethoxy]acridine
The compound is prepared from 3,6-bis(2-chloroethoxy)acridine hydrochloride and N-methylpiperazine as described in Example 15, except that the mixture is heated at 100° C. for 24 hours to attain reaction and that the free base is isolated.

reactant | 3,6-bis(2-chloroethoxy)acridine hydrochloride | Cl.ClCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCl
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3,6-bis[2-(4-methyl-1-piperazinyl)ethoxy]acridine | CN1CCN(CC1)CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN1CCN(CC1)C | C27H37N5O2
